US06310056B1
To a suspension of 102 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-methyl-1-carbapen-2-em-3-carboxylate 1.5 ml of dry dichloromethane was added 2.7 ml of iodomethane, and the mixture was stirred under the atmosphere of argon in the darkness at room temperature for 3 days. Unreacted reagent was removed under reduced pressure to give 122 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(6-methylimidazo[5,1-b]thiazolium-3-yl)-1-carbapen-2-em-3-carboxylate iodide.

reactant | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 1.5 ml, 102 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2N3C(SC2)=CN=C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C22H20N4O6S
reactant | iodomethane | 2.7 ml | IC | CH3I
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(6-methylimidazo[5,1-b]thiazolium-3-yl)-1-carbapen-2-em-3-carboxylate iodide | 122 mg | [I-].O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2[N+]=3C(SC2)=CN(C3)C)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | InChI=1S/C23H23N4O6S.HI/c1-12-18(16-10-34-17-8-24(3)11-25(16)17)21(26-20(12)19(13(2)28)22(26)29)23(30)33-9-14-4-6-15(7-5-14)27(31)32;/h4-8,10-13,19-20,28H,9H2,1-3H3;1H/q+1;/p-1/t12-,13+,19+,20+;/m0./s1
